US07060827B2
A solution of N2,N4-bis(3-methoxycarbonylphenyl)-5-fluoro-2,4-pyrimidinediamine (100 mg, 0.25 mmol) and NaOH (140 mg, 3.5 mmol) in THF:H2O (5 mL, each) was stirred at room temperature overnight. The reaction mixture was diluted with water (60 mL) and ethyl acetate (60 mL). The aqueous layer was separated, acidified with 1N HCl solution to pH 3. The formed precipitate was collected by filtration and recrystallized from methanol to give N2,N4-bis(3-carboxyphenyl)-5-fluoro-2,4-pyrimidinediamine (54 mg, 58%) as a white solid. 1H NMR (CD3OD): δ 7.31 (t, J=8.1 Hz, 1H), 7.42 (t, J=8.1 Hz, 1H), 7.61 (dm, J=7.8 Hz, 1H), 7.76 (dm, J=8.4 Hz, 1H), 7.89 (dm, J=7.2 Hz, 1H), 7.98 (d, J=3.6 Hz, 1H), 8.01 (m, 1H), 8.20 (m, 1H), 8.37 (m, 1H); LCMS: ret. time: 15.77 min.; purity: 98.84%; MS (m/e): 369.03 (MH+).

reactant | N2,N4-bis(3-methoxycarbonylphenyl)-5-fluoro-2,4-pyrimidinediamine | 0.25 mmol, 100 mg | COC(=O)C=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)C(=O)OC)F | C20H17FN4O4
reactant | NaOH | 3.5 mmol, 140 mg | [OH-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | water | 60 mL | O | H2O
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
product | N2,N4-bis(3-carboxyphenyl)-5-fluoro-2,4-pyrimidinediamine | 54 mg, 58% | C(=O)(O)C=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)C(=O)O)F | C18H13FN4O4
